US08378107B2
Step 2: N-Benzyl-N—((E)-propenyl)-acetamide
To benzyl-prop-(E)-ylidene-amine (6.0 g, 40 mmol) in triethylamine (5.67 mL, 40 mmol) at 0° C. was slowly added acetic anhydride (3.81 mL, 40 mmol), and the reaction was stirred for 30 minutes at 0° C. and then overnight at room temperature. The mixture was concentrated, and the residue was purified by silica gel chromatography (0-25% EtOAc in hexanes) to give the title compound.

reactant | benzyl-prop-(E)-ylidene-amine | 40 mmol, 6.0 g | C(C1=CC=CC=C1)/N=C/CC | C10H13N
reactant | triethylamine | 40 mmol, 5.67 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 40 mmol, 3.81 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-Benzyl-N—((E)-propenyl)-acetamide | C(C1=CC=CC=C1)N(C(C)=O)\C=C\C | C12H15NO
